US06313117B1
(e) 3-(4-Phenyl-cyclohexylmethyl)-propanoic acid
(4-Phenyl-cyclohexylmethyl)-malonic acid diethyl ester (2.79 g, 8.4 mmol, 1.0 equiv) was added to a solution of potassium hydroxide (2.35 g, 41 mmol, 5 equiv) in 20 mL of water and 20 mL of MeOH. The resulting mixture was refluxed for 0.5 h and then evaporated to dryness and then dissolved in 100 mL of water. The solution was washed 3×100 mL with hexane and then brought to pH <1 with concentrated HCl. The product was extracted 3×100 mL EtOAc. The organic layers were combined and concentrated to dryness. The crude product was then heated for 10 min at 180° C. to decarboxylate the diacid and yield the monoacid (0.9 g) which was used without further purification.

reactant | (4-Phenyl-cyclohexylmethyl)-malonic acid diethyl ester | 8.4 mmol, 2.79 g, 1.0 equiv | C(C)OC(C(C(=O)OCC)CC1CCC(CC1)C1=CC=CC=C1)=O | C20H28O4
reactant | potassium hydroxide | 41 mmol, 2.35 g, 5 equiv | [OH-].[K+]
reactant | MeOH | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 3-(4-Phenyl-cyclohexylmethyl)-propanoic acid | C1(=CC=CC=C1)C1CCC(CC1)CCCC(=O)O | C16H22O2
